### PR TITLE
fix: behavior of `String.prev`

### LINKED ISSUE #9439: Model implementation of `String.prev` doesn't align with actual implementation
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The runtime behavior of `String.prev` differs from its model implementation, allowing you to prove `False` with `native_decide`.

### Context

I tried to write proof API for `String` and then realized that in the docstring of `String.prev` it says:
> If p is not a valid position, the result is unspecified.

What do you mean unspecified?! It's clearly 0, according to the model implementation! ... wait it isn't?

### Steps to Reproduce

```lean-4
example : False := by
  have h1 : "L∃∀N".prev ⟨3⟩ = ⟨1⟩ := by native_decide
  have h2 : "L∃∀N".prev ⟨3⟩ = ⟨0⟩ := rfl
  rw [h1] at h2
  contradiction
```

Also:
```lean-4
example : "L∃∀N".prev ⟨300000⟩ = ⟨0⟩ := by native_decide
example : "L∃∀N".prev ⟨3000000000000000000000⟩ = ⟨2999999999999999999999⟩ := by native_decide
```

**Expected behavior:** The model implementation and the runtime implementation are equivalent.

**Actual behavior:** The implementations differ, allowing to prove `False` with `native_decide`.

### Versions

Lean 4.23.0-nightly-2025-07-10

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR fixes the behavior of `String.prev`, aligning the runtime implementation with the reference implementation. In particular, the following statements hold now:
- `(s.prev p).byteIdx` is at least `p.byteIdx - 4` and at most `p.byteIdx - 1`
- `s.prev 0 = 0`
- `s.prev` is monotone

Closes #9439

### CODE REVIEW

**Comment by Rob23oba** [comment]
changelog-library

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries CI can not be attempted yet, as the `nightly-testing-2025-07-19` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Batteries CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-07-20 12:38:37)

File: src/Init/Data/String/Basic.lean [hunk 1]
```diff
@@ -247,25 +247,26 @@ def next (s : @& String) (p : @& Pos) : Pos :=
...
+  | [],    _, p => ⟨p.byteIdx - 1⟩
   | c::cs, i, p =>
     let i' := i + c
-    if i' = p then i else utf8PrevAux cs i' p
+    if p ≤ i' then i else utf8PrevAux cs i' p
 
 /--
 Returns the position in a string before a specified position, `p`. If `p = ⟨0⟩`, returns `0`. If `p`
-is not a valid position, the result is unspecified.
+is out of bounds, returns the position one byte before `p`. Otherwise, if `p` occurs in the middle
```
Comment (TwoFX) [inline src/Init/Data/String/Basic.lean]: Could you state specifically here that `endPos` is not considered out-of-bounds here? This seems like a likely source of confusion.

**Review by TwoFX — COMMENTED** [review]
This is great, thanks!
